US07304162B2
A 20% aqueous solution of NaOH (275 mg, 1.37 mmol) was added to a solution of 3-(3,5-dimethyl-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-ylamine (200 mg, 0.91 mmol) in 2 mL of toluene. 2-Ethyl-3-methoxybenzoyl chloride (199 mg, 1 mmol) was then added to the mixture. The reaction was stirred at room temperature for 2 hours, and then heated at 50° C. for 1 hour. TLC indicated 3 spots. Water, dilute NaOH, and CHCl3 were then added to the reaction mixture. The organic phase was separated, dried over MgSO4, and the solvent removed in vacuo. The residue was triturated with 10% ether in hexane. Filtration and air-drying of the resultant solid provided 100 mg (29% yield) of N-[3-(3,5-dimethyl-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-yl]-2-ethyl-3-methoxy-benzamide. 1H-NMR (300 MHz, CDCl3)δ(ppm): 7.42 (s, 2H), 7.11 (s, 1H), 7.11 (t, 1H), 6.9 (d,1H), 6.67 (d, 1H), 3.81 (s, 3H), 2.55 (q, 2H), 2.34 (s, 6H), 1.7 (br s, 6H), 1.05 (t, 3H), Rf=0.5 (1:1 ethyl acetate:hexane).

reactant | NaOH | 1.37 mmol, 275 mg | [OH-].[Na+]
reactant | 3-(3,5-dimethyl-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-ylamine | 0.91 mmol, 200 mg | CC=1C=C(C=C(C1)C)C1=NOC(N1N)(C)C | C12H17N3O
reactant | 2-Ethyl-3-methoxybenzoyl chloride | 1 mmol, 199 mg | C(C)C1=C(C(=O)Cl)C=CC=C1OC | C10H11ClO2
reactant | Water | O | H2O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(3,5-dimethyl-phenyl)-5,5-dimethyl-[1,2,4]oxadiazol-4-yl]-2-ethyl-3-methoxy-benzamide | 100 mg, 29% yield | CC=1C=C(C=C(C1)C)C1=NOC(N1NC(C1=C(C(=CC=C1)OC)CC)=O)(C)C | C22H27N3O3
